US08912172B2
Production of Benzyl Ursolate
5 g of ursolic acid was dissolved in 300 ml of dimethylformamide, and 63 ml of triethylamine was added thereto. Then, 20 g of benzyl chloride was added thereto, and the whole was stirred at 50° C. for 1 hour and concentrated under reduced pressure, followed by purification by silica gel chromatography (elution solvent; chloroform:methanol=100:0 to 80:20), to thereby obtain benzyl ursolate.

reactant | ursolic acid | 5 g | C[C@@H]1CC[C@@]2(CC[C@@]3(C(=CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(CC[C@@H](C5(C)C)O)C)C)[C@@H]2[C@H]1C)C)C(=O)O | C30H48O3
reactant | triethylamine | 63 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloride | 20 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Benzyl Ursolate | C[C@@H]1CC[C@@]2(CC[C@@]3(C(=CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(CC[C@@H](C5(C)C)O)C)C)[C@@H]2[C@H]1C)C)C(=O)OCC6=CC=CC=C6 | C37H54O3
